US08084644B2
1-ethyl-2-methylbutyl N-phenyl-3-(trimethylsilyl)thiopropynimidate (0.47 g) was dissolved to methanol (10 mL), small amount of potassium carbonate was added to the solution under ice-cooling and then it was stirred for 30 minutes. Then methanol (3 mL) of 4-fluorothiophenol (0.105 mL) was added to the solution and the mixture was stirred for 18 hours at room temperature. The reaction mixture was concentrated under reduced pressure. The residue was subjected to medium pressure HPLC (hexane/ethyl acetate=98/2) to obtain 1-ethyl-2-methylbutyl 3-(4-fluorophenylthio)-N-(phenyl)thioacrylimidate (0.09 g).

reactant | 1-ethyl-2-methylbutyl N-phenyl-3-(trimethylsilyl)thiopropynimidate | 0.47 g | C1(=CC=CC=C1)N=C(C#C[Si](C)(C)C)SC(C(CC)C)CC | C19H29NSSi
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorothiophenol | 0.105 mL | FC1=CC=C(C=C1)S | C6H5FS
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | 1-ethyl-2-methylbutyl 3-(4-fluorophenylthio)-N-(phenyl)thioacrylimidate | 0.09 g | FC1=CC=C(C=C1)SC=CC(SC(C(CC)C)CC)=NC1=CC=CC=C1 | C22H26FNS2
